US04405623
A portion (50 mg) of sodium hydride suspension (50%) in mineral oil was added to a stirred solution of 3-(2-chlorophenyl)-6-ethoxycarbonyl-5,7-dimethyl-2,4-(1H,3H)-quinazolinedione (373 mg) in dried dimethylformamide (20 ml). After addition of ethyl chloroacetate (123 mg), the mixture was stirred at 70° C. for one hour. The solvent was evaporated at reduced pressure, and the residue was extracted with CHCl3, and the CHCl3 extract was washed with water, dried over anhydrous MgSO4 and concentrated. The residue was recrystallized from ethanol to give 3-(2-chlorophenyl)-1-ethoxycarbonylmethyl-6-ethoxycarbonyl-5,7-dimethyl-2,4(1H,3H)-quinazolinedione (287 mg, 62.6%) melting at 158°-159° C. MS: m/e, 458(M+), 423. NMR: δ (ppm, CDCl3), 1.28 (3H, t), 1.39 (3H, t), 2.40 (3H, s), 2.74 (3H, s), 4.28 (2H, q), 4.42 (2H, q), 4.92 (2H, s), 6.74 (1H, s), 7.41 (4H, m).

reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | 3-(2-chlorophenyl)-6-ethoxycarbonyl-5,7-dimethyl-2,4-(1H,3H)-quinazolinedione | 373 mg | ClC1=C(C=CC=C1)N1C(NC2=CC(=C(C(=C2C1=O)C)C(=O)OCC)C)=O | C19H17ClN2O4
reactant | ethyl chloroacetate | 123 mg | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(2-chlorophenyl)-1-ethoxycarbonylmethyl-6-ethoxycarbonyl-5,7-dimethyl-2,4(1H,3H)-quinazolinedione | 287 mg, 62.6% | ClC1=C(C=CC=C1)N1C(N(C2=CC(=C(C(=C2C1=O)C)C(=O)OCC)C)CC(=O)OCC)=O | C23H23ClN2O6
